US04460597
4-(2,4-dichlorobenzoyl)-1,3-dimethyl-5-[2-(N-methylanilino)ethoxy]pyrazole (Compound 2)
A mixture of 1.1 g of 5-(2-bromoethoxy)-4-(2,4-dichlorobenzoyl)-1,3-dimethylpyrazole and 6 ml of N-methylaniline was heated at 110° to 120° C. for 3 hours with stirring. Excess N-methylaniline was distilled off under reduced pressure. The residue was then purified by silica gel chromatography (eluent, benzene:ethyl acetate at 10:1) to give 0.71 g of the desired product, Compound 2, having a refractive index nD24 1.5975 (yield 60.5%).

reactant | 5-(2-bromoethoxy)-4-(2,4-dichlorobenzoyl)-1,3-dimethylpyrazole | 1.1 g | BrCCOC1=C(C(=NN1C)C)C(C1=C(C=C(C=C1)Cl)Cl)=O | C14H13BrCl2N2O2
reactant | N-methylaniline | 6 ml | CNC1=CC=CC=C1 | C7H9N
product | 4-(2,4-dichlorobenzoyl)-1,3-dimethyl-5-[2-(N-methylanilino)ethoxy]pyrazole | 0.71 g | ClC1=C(C(=O)C=2C(=NN(C2OCCN(C2=CC=CC=C2)C)C)C)C=CC(=C1)Cl | C21H21Cl2N3O2
